US04764367
undecyl alcohol.
In "Materials Tested as Insect Attractants" compiled by M. Beroza and N. Green in Agriculture Handbook No. 239 in Table 2 it is stated that 3-methyl-1-nonen-3-ol has, on a scale of 1 to 3, an attractancy of "1" for the Oriental Fruit Fly and an attractancy of "1" for the Mediterrean Fruit Fly and 4,8-dimethyl-7-nonen-4-ol has on a scale of 1 to 3 an attractancy of 37 2" for the Oriental Fruit Fly and an attractancy of "3" for the Mediterrean Fruit Fly and an attractancy of "1" for the Mexican Fruit Fly and an attractancy of "1" for Drosophila.

reactant | 3-methyl-1-nonen-3-ol | CC(C=C)(CCCCCC)O | C10H20O
reactant | 4,8-dimethyl-7-nonen-4-ol | CC(CCC)(CCC=C(C)C)O | C11H22O
product | undecyl alcohol | C(CCCCCCCCCC)O | C11H24O
